US04032676
N-(1,3,4,5,6-pentahydroxy-2-hexyl)-L-(+)-glutamic acid
The product was made from D-fructose and L-(+)-glutamic acid using Raney nickel as a catalyst and heating for 2 hours to 50° C. and for 3 hours to 70° C. The reaction product had a melting point of 149° C. (decomposition) and an RF -value of 0.62 (determined as indicated under Example T).

reactant | D-fructose | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | L-(+)-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
catalyst | Raney nickel | [Ni] | Ni
product | N-(1,3,4,5,6-pentahydroxy-2-hexyl)-L-(+)-glutamic acid | OCC(C(C(C(CO)O)O)O)N[C@@H](CCC(=O)O)C(=O)O | C11H21NO9
